US05843942
Benzyl bromide (71.4 ml) was added dropwise to a mixture of 5-bromo-2-hydroxybenzaldehyde (100.5 g) and K2CO3 (207.5 g) in 1-methyl-2-pyrrolidinone (500 ml) at 30° C. over 1 hour. The mixture was stirred for 3 hours at 35°-40° C. A solution of ethylamine hydrochloride (57.1 g) in methanol (250 ml) was added over 30 minutes at 35° C. and the mixture stirred for 3 hours at 35°-40° C. A solution of sodium borohydride (26.5 g) in 1-methyl-2-pyrrolidinone (300 ml) was added over 2 hours at 35°-40° C. and the mixture stirred at 40°-45° C. for 2 hours. The mixture was cooled (10° C.), diluted with ethyl acetate (200 ml) and acidified with 2N HCl (3,500 ml). The resulting precipitate was filtered off, washed with toluene and 40-60 petroleum ether and dried under vacuum at 60° C. The residue was purified by stirring in a mixture of acetonitrile (140 ml) and toluene (700 ml) at 80° C. for 30 minutes, cooling to 10° C. and filtering off the product to give N-ethyl N-(2-benzyloxy-5-bromobenzyl)amine hydrochloride salt (13.6 g, 76.7% yield).

reactant | Benzyl bromide | 71.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-bromo-2-hydroxybenzaldehyde | 100.5 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | K2CO3 | 207.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylamine hydrochloride | 57.1 g | Cl.C(C)N
reactant | sodium borohydride | 26.5 g | [BH4-].[Na+]
reactant | HCl | 2N, 3,500 ml | Cl | ClH
solvent | 1-methyl-2-pyrrolidinone | 500 ml | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 250 ml | CO | CH4O
solvent | 1-methyl-2-pyrrolidinone | 300 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl N-(2-benzyloxy-5-bromobenzyl)amine hydrochloride salt | 13.6 g, 76.7% yield | Cl.C(C)NCC1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | InChI=1S/C16H18BrNO.ClH/c1-2-18-11-14-10-15(17)8-9-16(14)19-12-13-6-4-3-5-7-13;/h3-10,18H,2,11-12H2,1H3;1H
